US08466181B2
6-(4-(4-(2-Fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid
A solution of lithium hydroxide monohydrate (63 mg, 1.49 mmol) in water (3.0 mL) was added dropwise to a suspension of methyl 6-(4-(4-(2-fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinate (282 mg, 0.745 mmol) in THF (6.0 mL) and methanol (1 mL). The reaction mixture was then stirred at room temperature for 1.5 h and was then evaporated and the residue dissolved in water, acidified with HCl (1 N), and the resulting precipitate filtered off to afford the title product (244 mg, 90%) as a white solid. MS: m/e=363.3 [M−H]−.

reactant | lithium hydroxide monohydrate | 1.49 mmol, 63 mg | O.[OH-].[Li+]
reactant | methyl 6-(4-(4-(2-fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinate | 0.745 mmol, 282 mg | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CN(C1)C1=NC=C(C(=O)OC)C=C1)C | C19H15FN6O2
solvent | water | 3.0 mL | O | H2O
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | 6-(4-(4-(2-Fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 244 mg, 90% | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13FN6O2
